US06734312B2
A mixture of dimethyl N-benzyl-3,4-dihydroxypyrrole-2,5-dicarboxylate (0.1 mol), 1,2-dibromoethane (0.1 mol), and potassium carbonate (0.5 mol) in dry DMF was stirred for 12 h under argon at 105-110° C. After cooling to 25° C., the reaction mixture was poured onto ice-water. The crude product was collected by suction filtration and purified by recrystallization in methanol yielding 6-benzyl-2,3-dihydro-6H-[1,4]dioxino[2,3-c]pyrrole-5,7-dicarboxylic acid dimethyl ester as colourless crystals in 55-65% yield.

reactant | dimethyl N-benzyl-3,4-dihydroxypyrrole-2,5-dicarboxylate | 0.1 mol | C(C1=CC=CC=C1)N1C(=C(C(=C1C(=O)OC)O)O)C(=O)OC | C15H15NO6
reactant | 1,2-dibromoethane | 0.1 mol | BrCCBr | C2H4Br2
reactant | potassium carbonate | 0.5 mol | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-benzyl-2,3-dihydro-6H-[1,4]dioxino[2,3-c]pyrrole-5,7-dicarboxylic acid dimethyl ester | 55-65% yield | COC(=O)C1=C2C(=C(N1CC1=CC=CC=C1)C(=O)OC)OCCO2 | C17H17NO6
